data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "COC12OC(OC1C)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2C"}, {"reactants": "COC12OC(C=C(OS(=O)(=O)c3ccc(C)cc3)C1OS(=O)(=O)c1ccc(C)cc1)OC2C.[O-]C", "products": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2C"}, {"reactants": "COC12OC(C=C([O-])C1OS(=O)(=O)c1ccc(C)cc1)OC2C", "products": "COC12OC(OC1C)C1C(=O)C12"}, {"reactants": "COC12OC(OC1C)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(C)C(OC)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C)C(OC)(O3)C21.CO", "products": "COC(=O)C1CC2(OC)OC1OC2C"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(Br)c(N(C)C(=O)C2=CCCC2)c1C.[Pd]", "products": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1C"}, {"reactants": "Cc1cc[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1C", "products": "Cc1ccc2c(c1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1ccc2c(c1C)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1ccc2c(c1C)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(Cl)ccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(Cl)ccc1OC)C(C)C", "products": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1ccc(Cl)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(F)c1", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(F)c1"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(F)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1F", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(F)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(N(C)C(=O)C2=CCCC2)c(Br)cc1F.[Pd]", "products": "Cc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1F"}, {"reactants": "Cc1cc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])cc1F", "products": "Cc1cc2c(cc1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cc2c(cc1F)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cc2c(cc1F)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(C(=O)C2C3CCC2C3)cc1F", "products": "COc1ccc([C]([O])C2C3CCC2C3)cc1F"}, {"reactants": "COc1ccc([C]([O])C2C3CCC2C3)cc1F", "products": "COc1ccc(C([O])=CC2C[CH]CC2)cc1F"}, {"reactants": "COc1ccc(C([O])=CC2C[CH]CC2)cc1F", "products": "COc1ccc(C(O)=CC2C=CCC2)cc1F"}, {"reactants": "COc1ccc(C(O)=CC2C=CCC2)cc1F", "products": "COc1ccc(C(=O)CC2C=CCC2)cc1F"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Cl)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "COc1cc(Cl)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "COc1cc(Cl)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "COc1cc(Cl)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(Cl)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(Cl)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cccc(Cl)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cccc(Cl)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cccc(Cl)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cccc(Cl)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cccc(Cl)c21", "products": "CN1C(=O)C2(C=CCC2)c2cccc(Cl)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(COC)COC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(COC)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(COC)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(COC)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
